US06596730B1
Trifluoromethane Sulfonic Acid 2-Methyl-[1,5]naphthyridin-4-yl Ester (D1)
A suspension of 4-hydroxy-2-methyl-[1,51]-naphthyridine contaminated with 4-hydroxy-2-methyl-[1,7]-naphthyridine (1.0g) (J. Royal Netherlands Chem. Soc. 1976, 95, 220) in DCM (45 ml) was treated sequentially with 2.6-lutidine (1.2 ml), 4-N,N-dimethylaminopyridine (0.075 g) and trifluoromethanesulfonic anhydride (1.2 ml). After the final addition was complete tile mixture was stirred for 30 min, washed with saturated aqueous ammonium chloride. dried (Na2SO4) and solvent removed at reduced pressure. The residue was column chromatographed (silica gel, 0-20% ethyl acetate in peitanie) to give after combining the appropriate fractions the title compound (0.588 g) as a colourless solid. 1H NMR (CDCl3) δ: 2.84 (3H, s), 7.42 (1H, s), 7.73 (1H, dd), 8.37 (1H, dd), 9.04 (1H, m).

reactant | 4-hydroxy-2-methyl-[1,7]-naphthyridine | 1.0g | OC1=CC(=NC2=CN=CC=C12)C | C9H8N2O
reactant | 2.6-lutidine | 1.2 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 1.2 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 45 ml | C(Cl)Cl | CH2Cl2
product | Trifluoromethane Sulfonic Acid 2-Methyl-[1,5]naphthyridin-4-yl Ester | 0.588 g | CC1=NC2=CC=CN=C2C(=C1)OS(=O)(=O)C(F)(F)F | C10H7F3N2O3S
